Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Diarrhea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ female patientwith a history of bilateral PEs ___ 
on Coumadin, choledocholithiasis s/p ERCP with sphincterotomy 
and stenting ___. She was recently admitted for BRBPR, found to 
have INR of 4 and colitis, thought to be infectious. She 
completed a course of Cipro/Flagyl and her abdominal pain 
improved. In the interim she also had an ERCP to take out stent 
(___). She reports that for the last day she has had 
intermittent mucousy, watery diarrhea, and she was afraid she 
might have seen a tinge of blood. She has abdominal cramping 
associated with these episodes but denies nausea, vomiting, 
fever, chills, dysuria. Patient denies diarrheal episodes in the 
past prior to previous admission, but does note a monoartritis 
of her knee that developed at the same time as her PEs.  

In the ED,t:98.9 83 121/60 16 99% on RA. CT Abdomen shows 
similar pattern of colitis as prior plus new cecal involvement. 
Abdominal exam benign with some mild suprapubic tenderness. 
Mostly pain free. Patient was guaiac negative. She was started 
on Levo/Flagyl and given her her regular coumadin (8mg). ED 
resident talked to GI who said they would see her on the floor 
if needed.  

On review of systems, notable for absence of chest pain, dyspnea 
on exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle 
edema, palpitations, syncope or presyncope, myalgias, joint 
pains, cough, hemoptysis, black stools. He denies recent fevers, 
chills or rigors. All of the other review of systems were 
negative
 
Past Medical History:
Bilateral PEs in ___, on coumadin
Choledocholithiasis s/p ERCP sphincterotomy and biliary stenting 
in ___ stent removed ___
s/p ovarian cyst removal in ___
s/p appendectomy
 
Social History:
___
Family History:
Father with colon cancer in ___.  Mother with CVA.  Brother 
with ___ macroglobulinemia and CNS lymphoma.
 
Physical Exam:
VS 97.6 132/74 74 18 96% on RA  
Gen: NAD, comfortable  
HEENT: PERRL, EOMI, MMM, no oral lesions  
Neck: Supple  
CV: RRR, normal s1 and s2.  
Chest: CTAB  
Abd: Soft, nontender, non-distended, bowel sounds present  
Ext: No edema in legs  
Skin: No rash  
Neuro:CN ___ intact, strength ___ BUE/BLE, sensory normal  
Psych: Calm, appropriate  

Guaiac negative in emergency department
 
Pertinent Results:
CT abdomen/pelvis with contrast (___):
1. Sigmoid colitis, which may represent recurrent or residual 
colitis since the prior study of ___.
2. Apparently new focal cecal wall thickening, which may be 
infectious, other considerations are inflammatory or less likely 
ischemic. Recommend colonoscopy after acute symptoms resolve, to 
exclude an underlying mass.
3. Indeterminate right adrenal lesion incompletely 
characterized; MRI is recommended on non-urgent basis for 
further evaluation.
4. Left adnexal lesion inseparable from left ovary; see previous 
pelvic MRI.
5. Burst fracture of L1 vertebral body with stable retropulsion, 
but possible slight increase in degree of anterior vertebral 
body height loss.

___
WBC-13.1*# Hgb-14.9 Hct-46.1 MCV-94 Plt ___ PTT-29.2 ___
ALT-22 AST-18 AlkPhos-104 TotBili-0.4

___
WBC-6.4# Hgb-12.7 Hct-39.6 MCV-94 Plt ___ PTT-35.9* ___
Glucose-86 UreaN-7 Creat-0.6 Na-141 K-3.8 Cl-108 HCO3-___ year-old female with recent bilateral PE on coumadin, 
choledocholithiasis s/p biliary stent placement and removal in 
ERCP, and recent admission for BRBPR in context of 
supratherapeutic INR and colitis admitted with diarrhea. 
Hospital course was as follows.

1. C. difficile colitis:  Toxin positive. Patchy colitis on CT 
abdomen/pelvis. Abdomen soft, mildly tender; tolerating POs 
without problem. Leukocytosis initially elevated, resolved on 
discharge. Treated with metronidazole PO, and discharged for 
total 2 week course. Probiotics also started at recommendation 
of GI consultants. Given patchy colitis and prior BRBPR, patient 
should keep previously scheduled colonoscopy in ___.

2. History of PE (bilateral):  Continued coumadin per home 
regimen. Given that metronidazole may affect coumadin 
metabolism, patient to get repeat INR on ___ and 
coumadin dosing changed accordingly. Regarding work-up for PE, 
Pap smear normal ___. Mammogram and colonoscopy scheduled in 
___.

3. Adrenal lesion:  10mm adrenal lesion on CT abdomen/pelvis. 
Discussed with patient. She will need an outpatient MRI for 
further evaluation.
 
Medications on Admission:
Multivitamin 
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain/fever.  
2. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H (every 
8 hours) for 13 days.
Disp:*39 Tablet(s)* Refills:*0*
3. Warfarin
8mg on ___ 7mg on 
___
4. Outpatient Lab Work
INR check on ___
5. Probiotic Formula 10 billion cell (2 billion ea) Capsule Sig: 
One (1) Capsule PO once a day.
Disp:*30 Capsule(s)* Refills:*2*
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
- Clotridium difficile colitis

Secondary:
- Recent bilateral pulmonary emboli, on coumadin
 
Discharge Condition:
Mental Status:  Clear and coherent
Level of Consciousness:  Alert and interactive
Activity Status:  Ambulatory - Independent
 
Discharge Instructions:
You were admitted to ___ on 
___ for diarrhea. You were found to have an infection with 
C. difficile, a type of bacteria. For treatment, you will need 
to take Flagyl (also called metronidazole) for 2 weeks. We also 
recommend that you take a probiotic.

Please note, Flagyl can increase your INR, so your INR will need 
to be closely monitored and your coumadin dose may need to be 
changed.

Other than the above medication changes, you may continue taking 
your home medications as you were prior to this hospitalization.
 
Followup Instructions:
___